US05498786
(S)-(-)-2-Bromodecanoic acid
(S)-2-Aminodecanoic acid from Takasago Research Institute (1.5 g., 8.0 mmol) and potassium bromide (3.8 g, 32 mmol) were dissolved in 16 ml of 2.5 m H2SO4 (40 mmol). Slight heating was necessary to the make the reaction homogeneous. The solution was cooled to 0° C. and sodium nitrite (1.1 g, 16 mmol) dissolved in 2 ml water was added dropwise. Brown gas evolved and foaming occurred. The reaction was stirred at 0° C. for 30 minutes and at rt for 2 hours. The reaction was quenched with 100 ml of 5% sodium thiosulfate and extracted with ethyl acetate (3×100 ml). The concentrated organic phase was purified by silica gel column chromatography (eluent: 100% CH2Cl2) to yield 1.2 g (61% yield) of the desired product: [α]20D=-29.9° (c=0.032, MeOH); 1H NMR (CDCl3 δ10.28 (1H, br s), 4.22 (1H, t, J=7.4 Hz), 2.02 (2H, m), 1.26 (12H, m), 0.87 (3H, t, J=6.8 Hz).

reactant | (S)-2-Aminodecanoic acid | N[C@H](C(=O)O)CCCCCCCC | C10H21NO2
reactant | potassium bromide | 32 mmol, 3.8 g | [Br-].[K+]
reactant | H2SO4 | 40 mmol | OS(=O)(=O)O | H2O4S
reactant | sodium nitrite | 16 mmol, 1.1 g | N(=O)[O-].[Na+]
solvent | water | 2 ml | O | H2O
product | (S)-(-)-2-Bromodecanoic acid | 1.2 g, 61% yield | Br[C@H](C(=O)O)CCCCCCCC | C10H19BrO2
